US04177292
348 mg of diethyl azocarboxylate were added to a mixture of 652 mg of cis N,N-dimethyl-5-[4-nitrophenoxy]-6,7,8,9-tetrahydro-5H-benzocyclohepten-7-amine in 10 ml of acetone and the mixture was refluxed for 31/2 hours. The acetone was distilled under reduced pressure and 5 ml of N hydrochloric acid were added to the residue. The mixture was stirred at room temperature for 26 hours and was then made alkaline with ammonium hydroxide. The mixture was extracted with methylene chloride and the organic phase was washed with water, dried over magnesium sulfate and filtered. The filtrate was evaporated to dryness under reduced pressure to obtain 1.1 g of raw product which was chromatographed over silica gel. Elution with a 7-3 chloroform-methanol mixture yielded 400 mg of cis N-methyl-5-[4-nitrophenoxy]-6,7,8,9-tetrahydro-5H-benzocyclohepten-7-amine. The said product was dissolved in ethyl acetate containing gaseous hydrogen chloride and 380 mg of the hydrochloride of the cis compound melting at 265° C. was recovered therefrom.

reactant | diethyl azocarboxylate | 348 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | cis N,N-dimethyl-5-[4-nitrophenoxy]-6,7,8,9-tetrahydro-5H-benzocyclohepten-7-amine | 652 mg | CN([C@H]1C[C@H](C2=C(CC1)C=CC=C2)OC2=CC=C(C=C2)[N+](=O)[O-])C | C19H22N2O3
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | cis N-methyl-5-[4-nitrophenoxy]-6,7,8,9-tetrahydro-5H-benzocyclohepten-7-amine | 400 mg | CN[C@H]1C[C@H](C2=C(CC1)C=CC=C2)OC2=CC=C(C=C2)[N+](=O)[O-] | C18H20N2O3
